US08003783B2
STX476 3-Hydroxy-13-methyl-16-(4-nitro-benzylidene)-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one (CAB02142):
Potassium hydroxide (2.0 9) was added to a suspension of estrone (1.352 g, 5.0 mmol) and 4-nitro-benzaldehyde (755 mg, 5.0 mmol) in ethanol (80 mL). The resulting dark brown solution was stirred for 4 hours at room temperature, then acetic acid (5 mL) and water (5 ml) were added (colour changes to orange). The product precipitated and was filtered off, washed with water (50 mL), ethanol (50 mL) and diethyl ether (50 mL) and dried under high vacuum. Yield: 1.682 g (83%) yellow solid. 1H-NMR (DMSO-d6, 400 MHz), δ: 0.93 (s, 3H, —CH3), 1.30-1.68 (m, 5H), 1.86-1.92 (m, 1H), 1.96-2.04 (m, 1H), 2.16-2.24 (m, 1H), 2.32-2.39 (m, 1H), 2.62-2.82 (m, 2H), 2.88-2.96 (m 1H), 6.46 (d, J=2.3 Hz, 1H), 6.52 (dd, J=8.6, 2.3 Hz, 1H), 7.06 (d, J=8.6 Hz, 1H), 7.42 (s, 1H), 7.92 (d, J=8.6 Hz, 2H), 8.27 (d, J=8.6 Hz, 2H), 9.04 (s, 1H, —OH). LRMS (FAB+): 404.1 (100, [M+H]+).

reactant | Potassium hydroxide | [OH-].[K+]
reactant | estrone | 5.0 mmol, 1.352 g | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CCC2=O)O | C18H22O2
reactant | 4-nitro-benzaldehyde | 5.0 mmol, 755 mg | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 3-Hydroxy-13-methyl-16-(4-nitro-benzylidene)-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one | OC=1C=CC=2C3CCC4(C(C(CC4C3CCC2C1)=CC1=CC=C(C=C1)[N+](=O)[O-])=O)C | C25H25NO4
